US07465730B2
To a solution of 6-(4-ethoxy-2-vinyl-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine (30 mg, 3.0 mmol) in 3 mL of ethanol was added anhydrous hydrazine (20 μL). The resulting reaction solution was refluxed at 90° C. for 90 min. It was allowed to warm to rt and directly condensed in vacuo to afford 6-(4-Ethoxy-2-ethyl-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine as a light yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.00 (m, 2H), 6.89 (m, 1H), 4.15 (q, 2H), 2.82 (s, 6H), 2.38 (s, 6H), 2.10 (q, 2H), 1.52 (t, 3H), 1.08 (t, 3H); MS (ESI) 324 (M+H)+.

reactant | 6-(4-ethoxy-2-vinyl-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine | 3.0 mmol, 30 mg | C(C)OC1=CC(=C(C=C1)N1C(=C2C(=NN=C(C2=C1C)C)C)C)C=C | C20H23N3O
reactant | hydrazine | 20 μL | NN | H4N2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 6-(4-Ethoxy-2-ethyl-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine | C(C)OC1=CC(=C(C=C1)N1C(=C2C(=NN=C(C2=C1C)C)C)C)CC | C20H25N3O
